US07790895B2
3-[Hydroxy-(3-hydroxymethyl-pyridin-4-yl)-methyl]-benzonitrile (100 mg, 0.42 mmol) and tosyl chloride (96 mg, 0.50 mmol) were dissolved in dichloromethane (5 mL) and then the reaction mixture was treated with triethylamine (0.09 mL, 0.65 mmol). The reaction mixture was stirred overnight at room temperature, then diluted with ethyl acetate and washed with 5% sodium bicarbonate. The organic layer was dried over sodium sulfate, concentrated, and the residue purified by chromatography of silica gel with 30% ethyl acetate in hexane to yield 3-(1,3-dihydro-furo[3,4-c]pyridin-1-yl)-benzonitrile as a white solid.

reactant | 3-[Hydroxy-(3-hydroxymethyl-pyridin-4-yl)-methyl]-benzonitrile | 0.42 mmol, 100 mg | OC(C=1C=C(C#N)C=CC1)C1=C(C=NC=C1)CO | C14H12N2O2
reactant | tosyl chloride | 0.50 mmol, 96 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | triethylamine | 0.65 mmol, 0.09 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1,3-dihydro-furo[3,4-c]pyridin-1-yl)-benzonitrile | C1(OCC=2C=NC=CC21)C=2C=C(C#N)C=CC2 | C14H10N2O
